US09376454B2
Step 2. Synthesis of 2-chloro-5-(2-methoxy-2-oxoethyl)pyridine 1-oxide
To methyl 2-(6-chloropyridin-3-yl)acetate (2.5 g) in DCM (100 mL) was added mCPBA (4.6 g). The resulting reaction mixture was stirred at room temperature for 4 hr. The organic phase was washed with sat. NaHCO3, dried over Na2SO4, and concentrated. The crude product was purified by flash chromatography to afford the title product (2.5 g).

reactant | methyl 2-(6-chloropyridin-3-yl)acetate | 2.5 g | ClC1=CC=C(C=N1)CC(=O)OC | C8H8ClNO2
reactant | mCPBA | 4.6 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-(2-methoxy-2-oxoethyl)pyridine 1-oxide | 2.5 g | ClC1=[N+](C=C(C=C1)CC(=O)OC)[O-] | C8H8ClNO3
